US06982278B2
2-{4-[2-(5-Methyl-2-phenyloxazol-4-yl)ethoxy]phenoxy}butyric acid ethyl ester
A solution of 4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenol in dry DMF (3.0 mL) under argon was treated with Cs2CO3 (483 mg, 1.5 mmol) then 2-bromobutyric acid ethyl ester (350 μL, 2.4 mmol). The reaction mixture was stirred at 55° C. for 18 h, was allowed to cool to room temperature, diluted with H2O, saturated with NaCl, and partitioned with ethyl acetate. The organic layer was washed with NaHCO3 then brine, dried (Na2SO4), and concentrated in vacuo to give a yellow oil (394 mg). The product was purified by radial chromatography using a 1 mm plate and 0-2% ethyl acetate in CH2Cl2 to give a yellow oil (216 mg, 88%). 1H NMR (400 MHz, CDCl3) δ 1.07 (t, 3H, J=7.33 Hz), 1.22-1.26 (m, 3H), 1.91-1.99 (m, 2H), 2.37 (s, 3H), 2.96 (t, 2H, J=6.60 Hz), 4.18-4.25 (m, 5H), 4.44 (t, 1H, J=6.35 Hz), 6.81 (s, 4H), 7.42-7.48 (m, 3H), 7.98-8.00 (m, 2H); MS (ES) m/e 410.2 (M+1).

reactant | 4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenol | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C=C1)O | C18H17NO3
reactant | Cs2CO3 | 1.5 mmol, 483 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-bromobutyric acid ethyl ester | 2.4 mmol, 350 μL | C(C)OC(C(CC)Br)=O | C6H11BrO2
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
solvent | NaCl | [Na+].[Cl-]
product | 2-{4-[2-(5-Methyl-2-phenyloxazol-4-yl)ethoxy]phenoxy}butyric acid ethyl ester | 394 mg | C(C)OC(C(CC)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)=O | C24H27NO5
